US08754053B2
837 mg of 2-{4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzyl}-isoindole-1,3-dione (Example I14) and 500 mg hydrazine hydrate in 25 ml ethanol were heated at reflux for 2 hours under stirring. The mixture was cooled and diluted with diethyl ether. The solid was filtered off and the filtrate was evaporated. The residue was dissolved in 100 ml of ether and washed with water. The organic phase was dried and evaporated. The residue was purified on silica gel (eluent dichloromethane/methanol 4:1) affording 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzylamine as a resin in 65% yield. 1H-NMR (CDCl3, δ in ppm): 7.44 (s, 2H), 7.37 (m, 2H), 7.28 (m, 2H), 5.33 (s, 1H), 3.88 (s, 2H), 2.99 (s, 3H), 2.34 (s, 3H).

reactant | 2-{4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzyl}-isoindole-1,3-dione | 837 mg | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1)C)C(F)(F)F | C27H19Cl2F3N2O3
reactant | hydrazine hydrate | 500 mg | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzylamine | 65% yield | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(CN)C=C1)C)C(F)(F)F | C19H17Cl2F3N2O
